US08003649B2
Reductive amination of 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine with thiadiazole-4-carbaldehyde was carried out according to General Synthetic Method 5. The crude product was purified by hplc using a Waters XBridge Prep C18 OBD column (5μ silica, 19 mm diameter, 100 mm length) eluted with decreasingly polar mixtures of water (containing 1% aqueous ammonia) and acetonitrile as eluents to give 6-[4-(thiadiazol-4-ylmethyl)piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine.

reactant | 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | N1(CCNCC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C10H11F3N6
reactant | thiadiazole-4-carbaldehyde | S1N=NC(=C1)C=O | C3H2N2OS
product | 6-[4-(thiadiazol-4-ylmethyl)piperazin-1-yl]-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | S1N=NC(=C1)CN1CCN(CC1)C=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C13H13F3N8S
